Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I feel like I'm going to hurt myself"
 
Major Surgical or Invasive Procedure:
n/a
 
History of Present Illness:
Per Dr. ___ ___ ED Initial Psychiatry Consult note:
___ y/o F with h/o depression, trauma, one prior psychiatric
admission following a suicide attempt who returns to ED with SI.
Psychiatry consulted for safety evaluation.

Pt was evaluated in the ED yesterday for depression in setting 
of
recent break-up from an abusive partner. She denied safety
concerns at that time. SW met with pt and connected her with
referrals to individual therapy, group therapy and the Arbour 
HRI
IOP for treatment. 

Earlier today, pt reached out to SW and reported that she was 
now
feeling unsafe and wanted to hurt herself. SW also spoke with
patient's mother (___), who agreed that pt is worse. 
She
was encouraged to return the ED for further evaluation. Pt's
mother brought pt to ED, then departed in order to pick up the
patient's children from school. Mother expressed hope that
patient would be admitted to the hospital. 

Pt is distressed and tearful on interview. She reports that she
and her boyfriend of ___ broke up 2wks ago. This was an abusive
relationship and she has a restraining order against him. She
reports that she currently feels safe in this regard. However,
her mood is depressed and she feels "broken." She says that she
has been taking Tylenol ___ so that she can make herself sleep.
She feels like she did ___ ago prior to her suicide attempt and
psychiatric hospitalization. Endorses insomnia, poor appetite,
feelings of guilt, inability to focus, low-esteem. Describes
ambivalent feelings about end of relationship. She says that she
does not want to hurt herself and also does not feel safe and
does not want to be awake/conscious. On further psych ROS, 
denies
h/o discrete period of decreased need for sleep, increased
anxiety, activity c/w mania. She is feeling very anxious right
now with difficulty catching her breath."

In the ED, patient noted to be tearful at times. In addition, 
for
insomnia, she received lorazepam 1 mg PO. She did not experience
any behavioral dysregulation. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
[Adapted and updated from Dr. ___ ___ ED note]:
Dx: Depression
Hospitalizations: Arbour ___ ago s/p suicide attempt 
Current treaters and treatment: 
-Psychiatrist: None
-Therapist: Intake appt with ___, ___ pending
___ @12p
-Group: Coping and Healing Group with ___, ___
-IOP: ___ @ 5pm - Intake for HRI Evening IOP ___ (unable to attend given presentation to
___ ED)
Medication and ECT trials: Denies
Self-injury: h/o attempted suicide by hanging ___ ago) denies
history of SIB although notes attempts to scratch her forearms
today
Harm to others: None
Access to weapons: Denies

PAST MEDICAL HISTORY:
[Adapted and updated from Dr. ___ ___ ED note]:
- Herpes (takes Valtrex PRN outbreaks) 
-Breast abscess 
**PCP: ___, MD
- Seizures: denies
- Head trauma: denies
- Menses: regular

MEDICATIONS:
- None though reports using Valtrex PRN herpes outbreak

 
Social History:
[Adapted and updated from Dr. ___ ___ ED note]:
B/R in ___, ___. She is the oldest of three siblings.
Mother, brother and sister all live nearby and are supports. The
patient lives with her two daughters, ages ___ and ___. The father
of her older daughter passed away. She works as a ___ at ___. Reports history of engaging in sex work in
past during times of financial stress. She recently got out of 
an
abusive relationship of ___. Endorses h/o prior trauma. Has a
high school education and is currently taking online classes to
become a ___ and eventually a ___.

SUBSTANCE USE HISTORY:
[Adapted and updated from Dr. ___ ___ ED note]:
Tobacco: Denies
Alcohol: Occasional use, but has been drinking more recently to
go to sleep. Reports drinking ~1 bottle of wine/day alone; 
denies
experiencing withdrawal symptoms or history of seizure
Cannabis: Last used day of presentation; estimates 5 joints per
day; using for insomnia; denies using synthetic marijuana
Illicits: Denies

 
Family History:
[Adapted and updated from Dr. ___ ___ ED note]:
Mother - depression
Brother - depression, polysubstance abuse (cocaine, heroin,
psychedelics, marijuana, alcohol)
Denies family h/o suicide attempts
 
Physical Exam:
VITAL SIGNS:
___ Temp: 98.5 PO BP: 113/75 HR: 94 RR: 16 O2 sat: 97% 


EXAM:

General:
-HEENT: Normocephalic, atraumatic. Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused. No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: deferred
-DTRs: deferred
___: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation. Narrow-based, normal stride and arm
swing. 

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb and WORLDb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "don't judge a book by its cover" as
"don't judge by appearances"; watch/ruler "both have numbers"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: woman appearing stated age, well groomed, wearing
hospital gown, in no apparent distress
-Behavior: minimal eye contact, psychomotor agitation (wringing
hands, cracking fingers)
-Attitude: cooperative, quite tearful
-Mood: "Calm... until I start getting into my thoughts"
-Affect: dysphoric, tearful, congruent, appropriate to situation
-Speech: normal rate, soft volume, and normal tone
-Thought process: linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: endorses passive SI, denies HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Limited

 
Pertinent Results:
___ 12:50PM   PLT COUNT-261
___ 12:50PM   NEUTS-72.6* LYMPHS-18.9* MONOS-7.5 EOS-0.3* 
BASOS-0.3 IM ___ AbsNeut-5.14 AbsLymp-1.34 AbsMono-0.53 
AbsEos-0.02* AbsBaso-0.02
___ 12:50PM   WBC-7.1 RBC-4.37 HGB-11.9 HCT-38.1 MCV-87 
MCH-27.2 MCHC-31.2* RDW-13.1 RDWSD-41.5
___ 12:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 12:50PM   GLUCOSE-77 UREA N-10 CREAT-0.6 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-24 ANION GAP-___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout her admission. She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Adjustment disorder with depressed mood
On admission, patient exhibited a dysphoric affect with extreme 
tearfulness, and perseverated by saying: "I'm not nasty." 
Reportedly her ex-boyfriend had called her this pejorative 
shortly before their breakup 2 weeks prior to admission. There 
was no evidence of frank thought disorder or perceptual 
disturbance. Patient did endorse passive SI upon admission 
without intent or plan. Her intake interview was punctuated by 
several minutes at a time of tearfulness and patient repeating 
the phrase above to herself. Given patient's history of remote 
SA ___ years ago, treatment team retained Major Depressive 
Disorder on the differential diagnosis along with Adjustment 
Disorder, depressive mood. 

As the admission progressed it became clear patient was not 
suffering from a major depressive episode: her affect, while 
remaining dysthymic, became more reactive and brighter without 
psychopharmacological intervention and her vegetative symptoms 
had largely resolved, including improving appetite/sleep/energy. 
However, her prevailing sense of guilt (to her children, for 
focusing on herself since the breakup and to her mother for 
relying so heavily upon her) persisted. Importantly, her passive 
suicidal ideation on admission dissipated: on day 3 of admission 
patient stated that rather than reflecting a true intent to die, 
her comments on admission were borne out of "loneliness and 
anger at my ex-boyfriend." She stated that she deeply looked 
forward to returning to her children at home, her work at 
___, and her mother. On discharge pt 
exhibited euthymic affect, appropriately reactive with laughter 
and "improving" mood but intermittently tearful as well; 
improving insight/judgment; no evidence of thought disorder or 
perceptual disturbance. She was discharged with only PRN 
hydroxyzine and with a scheduled intake appointment at ___ 
___'s ___ scheduled for ___, as well as a therapy 
appointment at ___ later that same day.

Future therapeutic intervention may focus on patient's themes of 
guilt and automatic negative thoughts.

3. SUBSTANCE USE DISORDERS:
#) Alcohol Use - pt reported occasional etoh use until 2 weeks 
ago at which time her breakup prompted her to rely on etoh to 
fall asleep, with patient reporting using 1 bottle of wine per 
day. Patient was counseled on the importance of sobriety and the 
likely contribution of etoh to her suicidality. Her use pattern 
did not constitute frank etoh use disorder.
#) Cannabis Use - Pt initially reported smoking 5 joints per day 
but later stated that this was not the case recently as she 
could not afford cannabis. Pt was counseled on the potential 
contribution of cannabis to her depression and suicidality and 
was counseled to stop using. 
#) Nicotine Use - Pt is a former smoker.

4. MEDICAL
#)Herpes Simplex Virus - pt reportedly takes Valtrex at home PRN 
outbreaks. Did not require any Valtrex prescription during 
admission. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient occasionally attended these groups that focused on 
teaching patients various coping skills. On the milieu, pt was 
social with select female peers, without behavioral 
dysregulation. 

#) COLLATERAL INFORMATION AND FAMILY INVOLVEMENT
Patient did not have outpatient psychiatrist or therapist to 
reach out to. Tx team spoke with patient's mother.  

#) INTERVENTIONS
- Medications: Hydroxyzine PRN anxiety
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Therapist ___ 
___ HRI Women's PHP
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
supportive psychotherapy, coping strategies 
-Guardianships: n/a

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon past 
history of suicide attempt ___ years prior as well as passive SI 
upon admission.  Her static factors noted at that time include 
history of suicide attempts, history of abuse, history of 
substance abuse, age, marital status. The modifiable risk 
factors were also addressed at that time, and included suicidal 
ideation without intent/plan, hopelessness, social withdrawal, 
limited coping skills, no established outpatient treatment, lack 
of purpose, active substance abuse/intoxication, impulsivity, 
polarized thinking, and recent personal loss. These were 
addressed with occupational therapy groups focusing on building 
coping skills, and supportive and behavioral psychotherapy from 
the treatment team. Finally, the patient is being discharged 
with many protective risk factors, including help-seeking 
nature, sense of responsibility to family, children in the home, 
reality testing ability, no history of substance use disorder, 
and strong social supports.  Thus, I feel the patient does not 
meet section 12a criteria for risk of harm to self/others. 
Overall, the patient is not at an acutely elevated risk of 
self-harm nor danger to others due to acutely decompensated 
psychiatric illness. 

 
Medications on Admission:
NORELGESTROMIN-ETHIN.ESTRADIOL [XULANE] - Dosage uncertain - 
(Prescribed by Other Provider)
VALACYCLOVIR [VALTREX] - Dosage uncertain -  (Prescribed by 
Other
Provider)

Per ___ Intake note from Dr. ___, General Internal 
Medicine
 
Discharge Medications:
1.  HydrOXYzine 25 mg PO BID:PRN anxiety 
RX *hydroxyzine HCl 25 mg 1 tablet by mouth twice a day Disp 
#*28 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder with depressed mood

 
Discharge Condition:
Mental Status: cooperative and pleasant, dysthymic but 
appropriately reactive with laughter, broader range than on 
admission; no e/o responding to internal stimuli or frank 
thought disorder; no perceptual disturbance.

Level of consciousness: Awake and alert

Ambulatory status: Ambulates independently without difficulty

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___